US07851473B2
4-(3-Phenyl-1,2,4-thiadiazol-5-yl)-N-pyridin-3-ylpiperazine-1-carboxamide hydrochloride
To a solution of 4-(3-phenyl-1,2,4-thiadiazol-5-yl)-N-pyridin-3-ylpiperazine-1-carboxamide (1.37 g, 3.73 mmol) in tetrahydrofuran (500 ml) was added a solution of 4 N hydrogen chloride in ethyl acetate (100 ml) at room temperature, and the mixture was stirred at room temperature for 5 hours. The solvent was distilled off under reduced pressure, and the residue was recrystallized from a mixed solvent of diethyl ether and methanol to give 1.38 g (92.1%) of the desired product as a solid. mp 204-205° C.

reactant | 4-(3-phenyl-1,2,4-thiadiazol-5-yl)-N-pyridin-3-ylpiperazine-1-carboxamide | 3.73 mmol, 1.37 g | C1(=CC=CC=C1)C1=NSC(=N1)N1CCN(CC1)C(=O)NC=1C=NC=CC1 | C18H18N6OS
reactant | hydrogen chloride | 4 N | Cl | ClH
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 4-(3-Phenyl-1,2,4-thiadiazol-5-yl)-N-pyridin-3-ylpiperazine-1-carboxamide hydrochloride | 1.38 g, 92.1% | Cl.C1(=CC=CC=C1)C1=NSC(=N1)N1CCN(CC1)C(=O)NC=1C=NC=CC1 | InChI=1S/C18H18N6OS.ClH/c25-17(20-15-7-4-8-19-13-15)23-9-11-24(12-10-23)18-21-16(22-26-18)14-5-2-1-3-6-14;/h1-8,13H,9-12H2,(H,20,25);1H
